US08049012B2
9-(6-Methoxy-Naphthalen-2-yloxy)-3-aza-spiro[5.5]undecane
Was prepared according to method A from 6-methoxy-2-naphthol and 9-hydroxy-3-aza-spiro[5.5]undecane-3-carboxylic acid tert-butyl ester.

reactant | 6-methoxy-2-naphthol | COC=1C=C2C=CC(=CC2=CC1)O | C11H10O2
reactant | 9-hydroxy-3-aza-spiro[5.5]undecane-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CC1)CCC(CC2)O | C15H27NO3
product | 9-(6-Methoxy-Naphthalen-2-yloxy)-3-aza-spiro[5.5]undecane | COC=1C=C2C=CC(=CC2=CC1)OC1CCC2(CCNCC2)CC1 | C21H27NO2
